US07417065B2
To a solution of 6-methyl-2-(2-trifluoromethyl-biphenyl-4-yl)benzothiazole (120 mg, 0.325 mmol) in CCl4 (3.5 ml) is added NBS (64 mg, 1.1 eq.). The mixture is heated to reflux for 15 minutes before AIBN (5 mg, 0.1 eq.) is added. The reaction is refluxed overnight, filtered through celite and washed with CCl4. The filtrate is concentrated and purified by column chromatography (EtOAc/Hexane=9/95). 6-Bromomethyl-2-(2-trifluoromethyl-biphenyl-4-yl) benzothiazole (105 mg, 72%) is isolated.

reactant | 6-methyl-2-(2-trifluoromethyl-biphenyl-4-yl)benzothiazole | 0.325 mmol, 120 mg | CC1=CC2=C(N=C(S2)C2=CC(=C(C=C2)C2=CC=CC=C2)C(F)(F)F)C=C1 | C21H14F3NS
reactant | NBS | 64 mg, 1.1 eq. | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 5 mg, 0.1 eq. | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 3.5 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-Bromomethyl-2-(2-trifluoromethyl-biphenyl-4-yl) benzothiazole | 105 mg, 72% | BrCC1=CC2=C(N=C(S2)C2=CC(=C(C=C2)C2=CC=CC=C2)C(F)(F)F)C=C1 | C21H13BrF3NS
